US06235763B1
263 mg of 5-chloro-2-bromo-2-fluoroindan-1-one and 152 mg of thiourea are dissolved in 2.5 ml of dry dimethyl sulfoxide and stirred at 50° C. for 8 h. Excess triethylamine is added to the reaction mixture, which is then concentrated in vacuo. The residue is purified by chromatography on silica gel with ethyl acetate as eluent. 2-Amino-6-chloro-8a-fluoro-8 ,8a-dihydroindeno[1,2-d]thiazol-3a-ol is obtained with a melting point of 159° C.

reactant | 5-chloro-2-bromo-2-fluoroindan-1-one | 263 mg | ClC=1C=C2CC(C(C2=CC1)=O)(F)Br | C9H5BrClFO
reactant | thiourea | 152 mg | NC(=S)N | CH4N2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 2-Amino-6-chloro-8a-fluoro-8 ,8a-dihydroindeno[1,2-d]thiazol-3a-ol | NC=1SC2(C(N1)(C=1C=CC(=CC1C2)Cl)O)F | C10H8ClFN2OS
